US09056874B2
7-Chloro-5-methyl-1-tosyl-1H-indole-4-carbaldehyde
To a solution of 7-chloro-4-iodo-5-methyl-1-tosyl-1H-indole (98 mg, 0.220 mmol) and DMF (34 μL, 0.440 mmol) in cyclopentyl methyl ether (2 mL) at −78° C., was added n-butyllithium (2.5 M in hexanes, 114 μL, 0.286 mmol). After 80 minutes additional n-butyllithium (2.5 M in hexanes, 0.11 mL, 0.286 mmol) was added. After 15 more minutes the reaction was quenched with MeOH (0.5 mL) and sat. aq. NH4Cl. The layers were separated and the aqueous layer was extracted with EtOAc, washed with brine, dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-50% EtOAc in heptanes) to provide the title compound. MS (ESI+) m/z 347.9 (M+H).

reactant | 7-chloro-4-iodo-5-methyl-1-tosyl-1H-indole | 0.220 mmol, 98 mg | ClC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)I)C | C16H13ClINO2S
reactant | DMF | 0.440 mmol, 34 μL | CN(C)C=O | C3H7NO
reactant | n-butyllithium | 0.286 mmol, 2.5 M, 114 μL | C(CCC)[Li]
reactant | n-butyllithium | 0.286 mmol, 2.5 M, 0.11 mL | C(CCC)[Li]
solvent | cyclopentyl methyl ether | 2 mL | COC1CCCC1 | C6H12O
product | 7-Chloro-5-methyl-1-tosyl-1H-indole-4-carbaldehyde | ClC1=CC(=C(C=2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)C=O)C | C17H14ClNO3S
